US07662965B2
Synthesis of 3-(3-((5-(4-nitrophenyl)furan-2-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine
3-(5-Ammoniopentanoyl)pyridinium chloride (95 mg, 0.38 mmol) and 5-(4-nitrophenyl)furfural (99 mg, 0.46 mmol) were combined in a reaction vessel and treated with isopropanol (6 mL). The reaction vessel was sealed and the reaction was heated to 80° C. with stirring overnight. The reaction was then cooled to room temperature, concentrated under reduced pressure and treated with saturated NaHCO3(aq). This mixture was then extracted three times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered and concentrated under reduced pressure. The recovered material was eluted through a 20 gram column of silica gel with 10.5:7:7:1:0.1 hexane:MTBE:CH2Cl2:MeOH:NH4OH (1 liter). One sample was recovered that appeared to be highly crystalline. This material was re-crystallized from hot methanol. The crystals were recovered by vacuum filtration, washed with isopropanol then dried under vacuum giving 50 mg (36%) of an orange crystalline solid. LC-MS: RT=5.16 min, [M+H]+=360.0.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.38 mmol, 95 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | 5-(4-nitrophenyl)furfural | 0.46 mmol, 99 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=O)O1 | C11H7NO4
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | 3-(3-((5-(4-nitrophenyl)furan-2-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine | 50 mg, 36% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=C1C(=NCCC1)C=1C=NC=CC1 | C21H17N3O3
